US05716936
A To a solution of 2.5 g of tert-butyl (2RS,4SR,5RS)-1-{2-[3-(3-methoxycarbonylmethylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-(4-chlorophenyl)sulphonyl-2-pyrrolidinecarboxylate in 60 cm3 of methanol and 30 cm3 of distilled water is added, at a temperature in the region of 20° C., 0.2 g of potassium hydroxide. The reaction mixture is stirred for twenty hours at a temperature in the region of 20° C., and then concentrated under reduced pressure. The residue is taken up in 100 cm3 of distilled water, washed with three times 75 cm3 of diethyl ether, acidified to a pH in the region of 1 by aqueous normal hydrochloric acid and extracted with three times 75 cm3 of ethyl acetate. The extracts are combined, washed with three times 50 cm3 of saturated aqueous sodium chloride solution, dried over magnesium sulphate and concentrated under reduced pressure. The residue is purified by chromatography on 80 g of silica contained in a column 3.2 cm in diameter [eluent: dichloromethane/methanol (95/5 by volume)]. The fractions containing the expected product are combined and concentrated under reduced pressure. 0.95 g of (2RS,4SR,5RS)-3-(3-{2-[2-tert-butoxycarbonyl-5-(2-fluorophenyl)-4-(4-chlorophenyl)sulphonyl-1-pyrrolidinyl]-2-oxoethyl}ureido)phenylacetic acid is thus obtained [Rf=0.5; eluent: methylene chloride/methanol (90/10); 1H NMR spectrum (250 MHz, (CH3)2SO with addition of a few drops of CD3COOD, at a temperature of 393 K, δ in ppm): 1.54 (s, 9H: C(CH3)3); from 2.40 to 2.60 and 2.85 (2 mts, 1H each: CH2 at 3); 3.50 (s, 2H: ArCH2COO); 3.70 and 3.97 (broad d and d respectively, J=17 Hz, 1H each: COCH2N); 4.09 (mt, 1H: H4); 4.68 (t, J=8 Hz, 1H: H2); 5.73 (d, J=3 Hz, 1H: H5); 6.86 (broad d, J=7.5 Hz, 1H: aromatic H (H4: ortho to the CH2)); from 7.00 to 7.40 (mt, 6H: aromatic H); 7.68 (broad d, J=8.5 Hz, 2H: H of the aromatic at 4 (H ortho to the Cl)); 7.82 (broad t, J=8 Hz, 1H: H of the aromatic at 5 (H6)); 7.96 (broad d, J=8.5 Hz, 2H: aromatic H at 4 (H meta to the Cl))].

reactant | tert-butyl (2RS,4SR,5RS)-1-{2-[3-(3-methoxycarbonylmethylphenyl)ureido]acetyl}-5-(2-fluorophenyl)-4-(4-chlorophenyl)sulphonyl-2-pyrrolidinecarboxylate | 2.5 g | COC(=O)CC=1C=C(C=CC1)NC(NCC(=O)N1C(CC(C1C1=C(C=CC=C1)F)S(=O)(=O)C1=CC=C(C=C1)Cl)C(=O)OC(C)(C)C)=O | C33H35ClFN3O8S
reactant | potassium hydroxide | 0.2 g | [OH-].[K+]
solvent | methanol | 60 cm3 | CO | CH4O
solvent | water | 30 cm3 | O | H2O
product | (2RS,4SR,5RS)-3-(3-{2-[2-tert-butoxycarbonyl-5-(2-fluorophenyl)-4-(4-chlorophenyl)sulphonyl-1-pyrrolidinyl]-2-oxoethyl}ureido)phenylacetic acid | 0.95 g | C(C)(C)(C)OC(=O)C1N(C(C(C1)S(=O)(=O)C1=CC=C(C=C1)Cl)C1=C(C=CC=C1)F)C(CNC(NC=1C=C(C=CC1)CC(=O)O)=O)=O | C32H33ClFN3O8S
